US07504401B2
To a stirred solution of 0.160 g (0.31 mmol) of [3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid methyl ester in 5 mL of THF was added 0.310 mL of 1M tetra-n-butylammonium fluoride in THF. The reaction was stirred 10 min, poured into water and ethyl acetate. The phases were separated, and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, washed with saturated sodium bicarbonate and brine and dried over sodium sulfate, and the volatiles were removed under reduced pressure. The crude product was chromatographed using 1-5% methanol/chloroform to give [3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid methyl ester. 1H NMR (400 MHz, methanol-d4): δ 9.08 (s, 1H), 8.79 (d, J=3.9 Hz, 1H), 8.43 (s, 1H), 8.16 (d, J=7.8 Hz, 1H), 8.08 (s, 1H), 7.81 (s, 1H), 7.78 (s, 1H), 7.38-7.46 (m, 2H), 7.22-7.27 (m, 2H), 7.19 (d, J=7.0 Hz, 1H), 7.01 (s, 1H), 6.72 (s, 1H), 3.79 (s, 3H).

reactant | [3-(pyridine-3-carbonyl)-5-(1-triisopropylsilanyl-1H-indol-4-yl)-phenyl]-carbamic acid methyl ester | 0.31 mmol, 0.160 g | COC(NC1=CC(=CC(=C1)C1=C2C=CN(C2=CC=C1)[Si](C(C)C)(C(C)C)C(C)C)C(=O)C=1C=NC=CC1)=O | C31H37N3O3Si
reactant | tetra-n-butylammonium fluoride | 1M, 0.310 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [3-(1H-indol-4-yl)-5-(pyridine-3-carbonyl)-phenyl]-carbamic acid methyl ester | COC(NC1=CC(=CC(=C1)C(=O)C=1C=NC=CC1)C1=C2C=CNC2=CC=C1)=O | C22H17N3O3
